US08440665B2
A suspension of 4-bromo-N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide (55 mg, 0.14 mmol), 3-pyridine boronic acid (17 mg, 0.14 mmol), dppf(Pd)Cl2 (5.2 mg, 0.0071 mmol), potassium carbonate (49 mg, 0.35 mmol) in degassed toluene (0.70 mL), degassed water (0.35 mL) and degassed ethanol (0.35 mL) was heated at 90° C. for 3 hours. The aqueous layer was separated, the organic layer was concentrated under reduced pressure, and the residue was purified by reverse-phase HPLC to give N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)-3,4′-bipyridine-2′-carboxamide as a white powder (11 mg, 20% yield). N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)-3,4′-bipyridine-2′-carboxamide; C20H16N6OS. 389.2 (M+1). 1H NMR (DMSO) δ 11.45 (s, 1H), 9.11 (d, J=2 Hz, 1H), 8.85 (d, J=5 Hz, 1H), 8.70-8.74 (m, 1H), 8.60 (s, 1H), 8.49 (s, 1H), 8.31-8.36 (m, 2H), 8.10 (dd, J=2, 5 Hz, 1H), 8.06 (s, 1H), 7.60 (dd, J=5, 8 Hz, 1H), 3.56-3.59 (m, 1H), 1.11-1.27 (m, 4H).

reactant | 4-bromo-N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide | 0.14 mmol, 55 mg | BrC1=CC(=NC=C1)C(=O)NC1=CSC(=C1)C1=NN=CN1C1CC1 | C15H12BrN5OS
reactant | 3-pyridine boronic acid | 0.14 mmol, 17 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 0.35 mmol, 49 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.70 mL | C1(=CC=CC=C1)C | C7H8
product | N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)-3,4′-bipyridine-2′-carboxamide | 11 mg, 20% yield | C1(CC1)N1C(=NN=C1)C1=CC(=CS1)NC(=O)C1=NC=CC(=C1)C=1C=NC=CC1 | C20H16N6OS
